US04353921
A. 2-Methyl-1-[2-[(2,6-dimethylphenyl)carbamoyl]ethyl]-2-imidazoline
In a manner similar to Ex. IA react 5.29 gm. (0.025 M) of 3-chloro-2',6'-propionoxylidide with 10.53 gm. (0.125 M) of lysidine in 200 ml. of anhydrous ethanol to obtain the title compound.

reactant | 3-chloro-2',6'-propionoxylidide | 0.025 M | CC1=C(C(=CC=C1)C)NC(=O)CCCl | C11H14ClNO
reactant | lysidine | 0.125 M | CC1=NCCN1 | C4H8N2
solvent | ethanol | C(C)O | C2H6O
product | 2-Methyl-1-[2-[(2,6-dimethylphenyl)carbamoyl]ethyl]-2-imidazoline | CC=1N(CCN1)CCC(NC1=C(C=CC=C1C)C)=O | C15H21N3O
